US04542237
A sodium methoxide solution prepared by adding 3.2 g of sodium to 40 ml of methanol at 10° C. is added slowly to a solution of 20 g of 2-bromo-1-(6-methoxy-2-naphthyl)propan-1-one in 100 ml of methanol, and 100 ml of toluene is added. The addition takes place over about a one-hour period and the reaction mixture is stirred and allowed to warm for 1 1/2 additional hours. Then the reaction mixture is poured into water, and extracted with toluene-ether. The organic phase is separated, dried and evaporated to afford 1,1-dimethoxy-1-(6-methoxy-2-naphthyl)propan-2-ol as an oil.

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 3.2 g | [Na] | Na
reactant | 2-bromo-1-(6-methoxy-2-naphthyl)propan-1-one | 20 g | BrC(C(=O)C1=CC2=CC=C(C=C2C=C1)OC)C | C14H13BrO2
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | water | O | H2O
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
product | 1,1-dimethoxy-1-(6-methoxy-2-naphthyl)propan-2-ol | COC(C(C)O)(C1=CC2=CC=C(C=C2C=C1)OC)OC | C16H20O4
